US07763639B2
1-ETHYL-4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]PIPERIDINE
Preparation according to preparation 18: 1-ethyl-4-[2-fluoro-3-(2-methyl-1,3-dioxolan-2-yl)phenyl]-1,2,3,6-tetrahydropyridine (0.73 g, 2.5 mmol), methanol (20 ml), palladium on carbon (0.32 g) and hydrochloric acid (0.2 ml, conc). Yield: 0.7 g. MS m/z (relative intensity, 70 eV) 293 (M+, 23), 292 (12), 279 (15), 278 (bp) 84 (16).

reactant | 1-ethyl-4-[2-fluoro-3-(2-methyl-1,3-dioxolan-2-yl)phenyl]-1,2,3,6-tetrahydropyridine | 2.5 mmol, 0.73 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)C1(OCCO1)C)F | C17H22FNO2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
catalyst | palladium on carbon | 0.32 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 1-ETHYL-4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]PIPERIDINE | C(C)N1CCC(CC1)C1=C(C(=CC=C1)C1(OCCO1)C)F | C17H24FNO2
